US05981776
Process for the preparation of 3-[3-(1-adamantyl)-4-methoxyphenyl]-3-methyl-2H-1-benzofuran-6-carboxylic acid
A mixture of methyl 3-[3-(1-adamantyl)-4-methoxyphenyl]-3-methyl-2H-1-benzofuran-6-carboxylate (62 mg, 0.14 mmol), sodium hydroxide (0.012 g, 0.3 mmol) and lithium hydroxide (0.012 g, 0.28 mmol) is refluxed for 6 h. The mixture is concentrated on a rotary evaporator under vacuum at 40° C. 10 ml of water and 10 ml of ethyl acetate are added. The mixture is acidified with concentrated hydrochloric acid solution to pH=1. After separation of the phases by settling, the organic phase is washed twice with 10 ml of water, dried over magnesium sulphate and concentrated on a rotary evaporator under vacuum at 40° C. The product is purified by flash chromatography on a column of silica (50% CH2Cl2 50% EtOAc).

reactant | methyl 3-[3-(1-adamantyl)-4-methoxyphenyl]-3-methyl-2H-1-benzofuran-6-carboxylate | 0.14 mmol, 62 mg | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C2(COC3=C2C=CC(=C3)C(=O)OC)C | C28H32O4
reactant | sodium hydroxide | 0.3 mmol, 0.012 g | [OH-].[Na+]
reactant | lithium hydroxide | 0.28 mmol, 0.012 g | [OH-].[Li+]
product | 3-[3-(1-adamantyl)-4-methoxyphenyl]-3-methyl-2H-1-benzofuran-6-carboxylic acid | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C2(COC3=C2C=CC(=C3)C(=O)O)C | C27H30O4
